US04067903
244 parts of phenylethyl alcohol, 450 parts of p-anisidine and 30 parts of triphenyl phosphite are mixed and heated, using a water separator, initially to 210° C, at which temperature the elimination of water commences. The internal temperature is raised to 250° C in the course of 8 hours. After this time, the elimination of water has ended (36 parts of water). The mixture is worked up by distillation under reduced pressure. After distilling off excess alcohol and amine, the N-(2'-phenylethyl)-4-methoxy-aniline distils at a boiling point of 187° - 190° C/5 mm Hg. 372 parts of N-(2'-phenylethyl)-4-methoxyaniline (89% of theory) are obtained.

reactant | phenylethyl alcohol | C1(=CC=CC=C1)CCO | C8H10O
reactant | p-anisidine | COC1=CC=C(C=C1)N | C7H9NO
reactant | triphenyl phosphite | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
solvent | water | O | H2O
product | N-(2'-phenylethyl)-4-methoxyaniline | 89% | C1(=CC=CC=C1)CCNC1=CC=C(C=C1)OC | C15H17NO
